US07507821B2
Thus, Imatinib is obtained by a synthetic route comprising reacting 2-chloro-4-(3-pyridyl)-pyrimidine with 2-amino-4-nitro-toluene to obtain N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine, which is subsequently reduced and reacted with 4-(4-methyl-piperazine-1-ylmethyl)-benzoyl chloride to yield the final product.

reactant | 2-chloro-4-(3-pyridyl)-pyrimidine | ClC1=NC=CC(=N1)C=1C=NC=CC1 | C9H6ClN3
reactant | 2-amino-4-nitro-toluene | NC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H8N2O2
product | N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H13N5O2
